US06528510B1
1-Bromo-4-tert-butyl-2-nitro-benzene (18 g) was reduced as described in General Method 3 using 10% palladium on charcoal (1 g) and MeOH (100 mL) in a hydrogen atmosphere (50 psi). The catalyst was filtered, and the solvents were evaporated. The residue was taken in EtOAc (100 mL) and washed with saturated sodium bicarbonate solution and H2O. The solution was dried and concentrated. The residue was purified by flash chromatography to give 3-tert-butyl-phenylamine. MS (APCI): 150 (M+H).

reactant | 1-Bromo-4-tert-butyl-2-nitro-benzene | 18 g | BrC1=C(C=C(C=C1)C(C)(C)C)[N+](=O)[O-] | C10H12BrNO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 3-tert-butyl-phenylamine | C(C)(C)(C)C=1C=C(C=CC1)N | C10H15N
